US06576630B1
A solution comprised of 2-[2-(2-benzyloxycarbonylamino-4-methylvalerylamino)-1-hydroxy-4-phenylbutyl]oxazole-4-carboxylic acid (0.05 g, 0.096 mmol), provided as in Example 7, in DMF (5 mL) was stirred while PyBOP® (0.05 g, 0.096 mmol) and aniline (9 mg, 0.096 mmol) were added. The mixture was stirred for an additional 2 minutes and diisopropylethylamine (12.4 mg, 0.096 mmol) was added. The mixture was stirred for 2 hours at room temperature, poured into cold water 0° C. at and extracted with ethyl acetate (4×30 mL). The extracts were combined, dried (MgSO4) and then concentrated. The product was purified from the residue by flash chromatography eluting with 1:2 hexanes/ethyl acetate to provide benzyl 3-methyl-1-[2-hydroxy-1-phenethyl-2-(4-phenylcarbamoyloxazol-2-yl)ethylcarbamoyl]butylcarbamate (30 mg, 0.05 mmol) as a white solid. MS (ESI)) m/z=599 (M+1); 1H NMR (CDCl3): δ 0.8-1.05 (d, J=4 Hz, 6H), 1.35 (m, 1H), δ 1.55 (m, 1H), δ 2.00-2.15 (m, 2H), δ 2.62 (m, 2H), δ 2.80 (m, 2H), δ 3.65 (m, 2H), δ 4.11 (m, 1H1), δ 4.30 (m, 1H), δ 4.45 (m, 1H), δ 4.95 (s, 1H) 5.17 (s, 2H), δ 5.2 (d, J=4 Hz, 1H), δ 6.70 (d, J=5 Hz 1H), δ 7.1-7.45 (m, 15H) 7.7(d, J=4 Hz, 1H), δ 8.19 (s, 1H), δ 8.99 (s, 1H), (C34H38N4O6).

reactant | 2-[2-(2-benzyloxycarbonylamino-4-methylvalerylamino)-1-hydroxy-4-phenylbutyl]oxazole-4-carboxylic acid | 0.096 mmol, 0.05 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC(C(O)C=1OC=C(N1)C(=O)O)CCC1=CC=CC=C1)CC(C)C | C28H33N3O7
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aniline | 0.096 mmol, 9 mg | NC1=CC=CC=C1 | C6H7N
reactant | diisopropylethylamine | 0.096 mmol, 12.4 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | benzyl 3-methyl-1-[2-hydroxy-1-phenethyl-2-(4-phenylcarbamoyloxazol-2-yl)ethylcarbamoyl]butylcarbamate | 0.05 mmol, 30 mg | CC(CC(C(NC(C(C=1OC=C(N1)C(NC1=CC=CC=C1)=O)O)CCC1=CC=CC=C1)=O)NC(OCC1=CC=CC=C1)=O)C | C34H38N4O6
